US07897766B2
Naphthalene-1-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 1-naphthoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.94-2.71 (m, 7H), 3.46-3.93 (m, 6H), 4.56 (s, 1H), 7.50-7.59 (m, 3H), 7.61-7.68 (m, 1H), 7.90-7.96 (m, 1H), 7.97-8.03 (m, 1H), 8.11-8.18 (m, 1H); MS (APCI/NH3) m/z 307 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 1-naphthoic acid | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | NH3 | N | H3N
product | Naphthalene-1-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(=O)C2=CC=CC3=CC=CC=C23 | C20H22N2O
